US04077982
cis-5-(2-Fluorobenzyloxy)-2-phenyl-1,3-dioxane
Using the method of Example 8, cis-5-hydroxy-2-phenyl-1,3-dioxane (8.4 g, 0.047 mole) was reacted with sodium hydride (2.0 g of 61%, 0.047 mole). The reactant sodium salt was reacted with 2-fluorobenzyl chloride (7.2 g, 0.05 mole) to give, after recrystallization from benzene-ligroin, 2.8 g of white solid, m.p. 65°-67° C, and on further recrystallization, a solid, m.p. 70°-71° C. Analysis by VPC indicated the product to be 90% cis-5-(2-fluorobenzyloxy)-2-phenyl-1,3-dioxane.

reactant | cis-5-hydroxy-2-phenyl-1,3-dioxane | 0.047 mole, 8.4 g | O[C@@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C10H12O3
reactant | sodium hydride | 0.047 mole, 2.0 g | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 2-fluorobenzyl chloride | 0.05 mole, 7.2 g | FC1=C(CCl)C=CC=C1 | C7H6ClF
product | cis-5-(2-Fluorobenzyloxy)-2-phenyl-1,3-dioxane | FC1=C(CO[C@@H]2CO[C@@H](OC2)C2=CC=CC=C2)C=CC=C1 | C17H17FO3
